US06566358B2
5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-nicotinonitrile
Prepared from (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl) boronic acid and 3-bromo-5-cyanopyridine according to Procedure B. Off-white solid: mp 290-291° C.; 1H-NMR (DMSO-d6) δ10.41 (s, 1H, D2O exchangeable), 9.21 (d, 1H, J=2.2 Hz), 8.97 (d, 1H, J=1.7 Hz), 8.68 (t, 1H, J=2.1 Hz), 7.76 (m, 2H), 7.01 (d, 1H, J=8.2 Hz), 1.70 (s, 6H); MS (ESI) m/z 278(M−H, 96%). Anal. Calc. For C16H13N3O2.0.2 H2O: C, 67.94, H, 4.77, N, 14.85. Found: C, 68.04, H, 4.70, N, 14.58.

reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl) boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
reactant | 3-bromo-5-cyanopyridine | BrC=1C=NC=C(C1)C#N | C6H3BrN2
solvent | H2O | O | H2O
product | 5-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-nicotinonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=NC=C(C#N)C2)C | C16H13N3O2
